US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.114 g, 0.410 mmol) was reacted with N-(2-azidoethyl)benzenesulfonamide (0.104 g, 0.410 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(phenylsulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.81 (d, 2H), δ 7.44 (m, 5H), δ 6.44 (s, 1H), δ 6.07 (s, 2H), δ 3.36 (t, 2H), δ 2.47 (t, 2H), δ 2.20 (s, 2H), δ 1.47 (m, 13H0, δ 1.29 (s, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 202.9, 149.5, 148.2, 140.2, 132.8, 129.4, 127.1, 122.5, 106.5, 85.0, 53.7, 50.3, 42.9, 32.7, 31.2, 29.9, 29.2, 28.9, 28.2, 26.3, 25.5 ppm; HRMS (ESI) calcd for C23H33N7O4S (M+) 503.2315. found 503.2310, which was subsequently deprotected to give tert-butyl 2-amino-4-(5-(1-(2-(phenylsulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate hydrochloride (0.142 g, 64% yield). 1H NMR (300 MHz, CD3OD) δ 7.81 (d, 2H), δ 7.56 (m, 4H), δ 6.47 (s, 1H), δ 4.62 (s, 2H), δ 3.41 (s, 2H), δ 2.78 (s, 2H), δ 2.48 (s, 2H), δ 1.72 (s, 2H), δ 1.63 (s, 2H), δ 1.42 (s, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 176.2, 165.6, 159.9, 147.3, 140.2, 132.8, 129.3, 127.7, 126.8, 108.5, 108.4, 515.8, 42.3, 28.1, 27.9, 27.6, 24.1 ppm; HRMS (ESI) calcd for C18H25N7O2S (M+) 403.1790. found 403.1781.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.410 mmol, 0.114 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)benzenesulfonamide | 0.410 mmol, 0.104 g | N(=[N+]=[N-])CCNS(=O)(=O)C1=CC=CC=C1 | C8H10N4O2S
product | tert-butyl 2-amino-4-(5-(1-(2-(phenylsulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNS(=O)(=O)C1=CC=CC=C1)C(=O)OC(C)(C)C | C23H33N7O4S
